US05880120
CIS and TRANS-1,2,3,4-tetrahydro-1-(2-methoxyphenoxy)-N,N-dimethyl-2-naphthalenemethanamine
A mixture of 8.21 g (0.04M) of TRANS-1,2,3,4-tetrahydro-2-(N,N-dimethylaminomethyl)naphthalen-1-ol, 11.54 g (0.044M) of triphenyl phosphine, 5.46 g (0.044M) of 2-methoxyphenol and 100 ml of benzene was stirred and a solution of 7.83 g (0.004M) of 95% diethyl azodicatrboxylate in 25 ml of benzene was added dropwise over 45 minutes. After 2 hours, the mixture was filtered and extracted with cold 3% hydrochloric acid. The acid extracts were made basic with dilute sodium hydroxide and the oil which separated was extracted into ether. The solvent was removed and the residual oil chromatographed on silica gel.

reactant | TRANS-1,2,3,4-tetrahydro-2-(N,N-dimethylaminomethyl)naphthalen-1-ol | 0.04M, 8.21 g | CN(C)C[C@H]1[C@@H](C2=CC=CC=C2CC1)O | C13H19NO
reactant | triphenyl phosphine | 0.044M, 11.54 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-methoxyphenol | 0.044M, 5.46 g | COC1=C(C=CC=C1)O | C7H8O2
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | TRANS-1,2,3,4-tetrahydro-1-(2-methoxyphenoxy)-N,N-dimethyl-2-naphthalenemethanamine | COC1=C(O[C@H]2[C@@H](CCC3=CC=CC=C23)CN(C)C)C=CC=C1 | C20H25NO2
